US05340701
Preparation of bis(cyclopentadienyl)-[4-chloro-6-(3-methylbut-1-oxy)-2-phenylpyrimidinyl]acetoxytitanium
69 ml (0.11 mol, 1.6M) of butyllithium are added dropwise over the course of 15 minutes under a nitrogen atmosphere to a solution of 15.6 ml (0.11 mol) of diisopropylamine in 200 ml of tetrahydrofuran at 0° C. This solution is added dropwise at from -70° to -60° C. over the course of 2 hours to a suspension of 24.9 g (0.1 mol) of titanocene dichloride and 27.7 g (0.1 mol) of 4-chloro-6-(3-methylbut-1-oxy)-2-phenylpyrimidine in 1000 ml of tetrahydrofuran. The reaction mixture is stirred at -70° C. for 1 hour, allowed to warm to room temperature over the course of about 3 hours and then poured, with stirring, into water and 19.0 g (0.23 mol) of acetic acid. The resultant red-orange emulsion is filtered through ®Hyflo. The organic phase is separated off, dried using magnesium sulfate, filtered and evaporated on a rotary evaporator. The residue is purified by flash chromatography with hexane:ethyl acetate in the ratio 3:1 as eluent, giving 11.2 g (22.4% of theory) of the title compound as a yellow powder having a melting point of 158° C.

reactant | butyllithium | 0.11 mol, 1.6M, 69 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.11 mol, 15.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | titanocene dichloride | 0.1 mol, 24.9 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
reactant | 4-chloro-6-(3-methylbut-1-oxy)-2-phenylpyrimidine | 0.1 mol, 27.7 g | ClC1=NC(=NC(=C1)OCCC(C)C)C1=CC=CC=C1 | C15H17ClN2O
reactant | acetic acid | 0.23 mol, 19.0 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | bis(cyclopentadienyl)-[4-chloro-6-(3-methylbut-1-oxy)-2-phenylpyrimidinyl]acetoxytitanium | C1(C=CC=C1)[Ti](OC(CC=1C(=NC(=NC1OCCC(C)C)C1=CC=CC=C1)Cl)=O)C1C=CC=C1 | InChI=1S/C17H19ClN2O3.2C5H5.Ti/c1-11(2)8-9-23-17-13(10-14(21)22)15(18)19-16(20-17)12-6-4-3-5-7-12;2*1-2-4-5-3-1;/h3-7,11H,8-10H2,1-2H3,(H,21,22);2*1-5H;/q;;;+1/p-1
